US05807851
8-Bromo-3-carbamoyl-4-methyl-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepine
A solution of 1.80 g (5 mmoles) of 8-bromo-4-methyl-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepine in 10 ml of glacial acetic acid is treated with 0.53 g (6.5 mmoles) of potassium cyanate. After 1 hour, the solution is poured onto water, and the precipitated crystals are filtered. The crude product is suspended in 15 ml of hot ethanol. After filtration and drying, 1.56 g (77%) of the title compound are obtained. M.p.: 193°-203° C.

reactant | 8-bromo-4-methyl-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepine | 5 mmoles, 1.80 g | BrC1=CC2=C(CC(NN=C2C2=CC=C(C=C2)[N+](=O)[O-])C)C=C1 | C16H14BrN3O2
reactant | potassium cyanate | 6.5 mmoles, 0.53 g | [O-]C#N.[K+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 8-Bromo-3-carbamoyl-4-methyl-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepine | 1.56 g, 77% | BrC1=CC2=C(CC(N(N=C2C2=CC=C(C=C2)[N+](=O)[O-])C(N)=O)C)C=C1 | C17H15BrN4O3
